US06127354
(2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid (146 mg, 0.57 mmol) was dissolved in dichloromethane (2 ml) and N,N-dimethylformamide (2 ml). 1-Hydroxy-7-azabenzotriazole (72 mg, 0.57 mmol) was added as a solid. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (109 mg, 0.57 mmol) was added. The solution was stirred for 15 min at 0° C. A solution of (2R)-N-Methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide (200 mg, 0.57 mmol) in dichloromethane (2 ml) was added. Ethyldiisopropylamine (0.1 ml, 0.57 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (50 ml) and washed with 1 N hydrochoric acid. The aqueous phase was extracted with ethyl acetate (2×20 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (40 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (80 g), using ethyl acetate/heptane as eluent, to give 270 mg of N-methyl-N-((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert-butyl ester.

reactant | (2E)-5-(N-(tert-Butoxycarbonyl)-N-methylamino)-5-methylhex-2-enoic acid | 0.57 mmol, 146 mg | C(C)(C)(C)OC(=O)N(C)C(C/C=C/C(=O)O)(C)C | C13H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 0.57 mmol, 72 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.57 mmol, 109 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-(methylamino)-3-(2-naphthyl)-N-(2-(2-thienyl)ethyl)propionamide | 0.57 mmol, 200 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)CCC=1SC=CC1 | C21H24N2OS
reactant | Ethyldiisopropylamine | 0.57 mmol, 0.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert-butyl ester | 270 mg | C(C)(C)(C)OC(N(C(C\C=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC=1SC=CC1)C)=O)C)=O)(C)C)C)=O | C34H45N3O4S
